US07427612B2
3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-morpholin-4-yl-benzenesulfonamide
The title compound was prepared according to the procedure described for example 1 from 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-chloro-benzenesulfonamide and morpholine (39%, yellow solid), MS (m/e): 489.4 (M−H, 100%)

reactant | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-chloro-benzenesulfonamide | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C=CC1Cl)S(=O)(=O)N)F | C19H19ClFN3O4S
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-[4-(4-Acetyl-2-fluoro-phenyl)-piperazine-1-carbonyl]-4-morpholin-4-yl-benzenesulfonamide | C(C)(=O)C1=CC(=C(C=C1)N1CCN(CC1)C(=O)C=1C=C(C=CC1N1CCOCC1)S(=O)(=O)N)F | C23H27FN4O5S
